US07816397B2
Methyl 2-(4-hydroxybutyl)benzoate
46.6 g (0.023 M) of methyl 2-(4-hydroxybut-1-ynyl)benzoate and 5 g of wet 10% palladium-on-charcoal are added to 900 ml of methanol in a 2000 ml stainless-steel autoclave. The reaction medium is then stirred under hydrogen pressure (10 bar) at 70° C. for 16 hours.

reactant | methyl 2-(4-hydroxybut-1-ynyl)benzoate | 0.023 M, 46.6 g | OCCC#CC1=C(C(=O)OC)C=CC=C1 | C12H12O3
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | methanol | 900 ml | CO | CH4O
product | Methyl 2-(4-hydroxybutyl)benzoate | OCCCCC1=C(C(=O)OC)C=CC=C1 | C12H16O3
